US06069156
A mixture of 1-(2-chlorobenzyl)-3-isobutyryl-2-propylindole-6-carboxylic acid (100 mg), diphenylphosphoryl azide (97 mg) and triethylamine (53 mg) in tert-butanol (4 ml) was refluxed for 2 hours, and then partitioned between ethyl acetate and diluted with hydrochloric acid. The organic layer was washed with aqueous sodium bicarbonate and brine, dried over magnesium sulfate and evaporated in vacuo. The residue was purified by silica gel thin layer chromatography with a mixture of hexane and ethyl acetate (2:1) to give 6-tert-butoxycarbonylamino-1-(2-chlorobenzyl)-3-isobutyryl-2-propylindole (125 mg) as a pale yellow oil.

reactant | 1-(2-chlorobenzyl)-3-isobutyryl-2-propylindole-6-carboxylic acid | 100 mg | ClC1=C(CN2C(=C(C3=CC=C(C=C23)C(=O)O)C(C(C)C)=O)CCC)C=CC=C1 | C23H24ClNO3
reactant | diphenylphosphoryl azide | 97 mg | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 53 mg | C(C)N(CC)CC | C6H15N
reactant | tert-butanol | 4 ml | C(C)(C)(C)O | C4H10O
product | 6-tert-butoxycarbonylamino-1-(2-chlorobenzyl)-3-isobutyryl-2-propylindole | 125 mg | C(C)(C)(C)OC(=O)NC1=CC=C2C(=C(N(C2=C1)CC1=C(C=CC=C1)Cl)CCC)C(C(C)C)=O | C27H33ClN2O3
